US08067457B2
rel-N-(2-{[(3R,4R)-4-methoxy-1-(tetrahydro-2H-pyran-4-yl)pyrrolidin-3-yl]amino}-2-oxoethyl)-3-(trifluoromethyl)benzamide (86)
The title compound was synthesized in similar fashion to rel-N-(2-{[(3R,4R)-4-ethoxy-1-(tetrahydro-2H-pyran-4-yl)pyrrolidin-3-yl]amino}-2-oxoethyl)-3-(trifluoromethyl)benzamide, whereby methyl bromide was substituted for bromoethane, and was isolated as a white solid. 1H-NMR (CDCl3) δ: 1.42-1.60 (m, 2H), 1.67-1.82 (m, 2H), 2.22-2.41 (m, 2H), 2.61-2.80 (m, 2H), 3.19-3.28 (m, 1H), 3.30-3.40 (m, 2H), 3.39 (s, 3H), 3.64-3.70 (m, 1H), 3.90-4.00 (m, 2H), 4.10-4.18 (m, 2H), 4.26-4.36 (m, 1H), 6.56-6.64 (m, 1H), 7.20-7.30 (m, 1H), 7.56 (t, J=7.5 Hz, 1H), 7.76 (d, J=7.5 Hz, 1H), 7.99 (d, J=7.5 Hz, 1H); 8.08 (s, 1H). MS m/z: 430 (M+1).

reactant | rel-N-(2-{[(3R,4R)-4-ethoxy-1-(tetrahydro-2H-pyran-4-yl)pyrrolidin-3-yl]amino}-2-oxoethyl)-3-(trifluoromethyl)benzamide | C(C)O[C@H]1[C@@H](CN(C1)C1CCOCC1)NC(CNC(C1=CC(=CC=C1)C(F)(F)F)=O)=O | C21H28F3N3O4
reactant | methyl bromide | CBr | CH3Br
reactant | bromoethane | BrCC | C2H5Br
product | rel-N-(2-{[(3R,4R)-4-methoxy-1-(tetrahydro-2H-pyran-4-yl)pyrrolidin-3-yl]amino}-2-oxoethyl)-3-(trifluoromethyl)benzamide | CO[C@H]1[C@@H](CN(C1)C1CCOCC1)NC(CNC(C1=CC(=CC=C1)C(F)(F)F)=O)=O | C20H26F3N3O4
